US06461876B1
(a) Synthesis of 5-Hydroxyadamantan-2-one (40)
Into a single neck 500 mL round bottom flask equipped with a magnetic stirrer and water bath, 75 parts of acetic acid containing 5 parts acetic anhydride was added. Twenty five parts of chromium trioxide was added in portions in 40 minutes while the temperature was maintained at 15-20° C. with water bath. Five parts of Adamantan-2-one was added in portions over a period of 15 minutes. Stirring was continued for one hour. The viscous reaction mixture was poured into cold 250 mL of aqueous 20% sodium hydroxide solution. The aqueous layer was extracted with 3×250 mL of ethyl acetate and washed with 2×250 mL of water and dried over sodium sulfate. Solvent was evaporated under reduced pressure and chromatographed on silica gel column using 75% ethyl acetate/hexane. The desired fractions were collected and solvent was evaporated to give a solid, yield 2.6 parts, single spot on silica gel TLC plate. The structure was confirmed on the basis of 1H NMR. The reaction proceeded as follows:

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | Adamantan-2-one | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Hydroxyadamantan-2-one | OC12CC3C(C(CC(C1)C3)C2)=O | C10H14O2
